US05376681
N,N-Dimethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylacetamide
To a solution of 2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl acetic acid (3.0 g, 12.8 mmol) in dimethylformamide (30 ml) were added 1-hydroxy-1H-benzotriazole monohydrate (HOBt) (2.1 g, 14.1 mmol) and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (WSC) (3.7 g, 19.2 mmol). The mixture was stirred at room temperature for 1 hour. Then, 50% dimethylamine aqueous solution (3 ml) was added and the resulting mixture was stirred for additional 30 minutes. The reaction mixture was diluted with water and the product was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (isopropyl ether) to obtain the desired compound (3.1 g, yield: 92.6% yield) as oil.

reactant | 2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl acetic acid | 12.8 mmol, 3.0 g | CC1(OC2=C(C1)C(=CC(=C2C)C)C)CC(=O)O | C14H18O3
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 14.1 mmol, 2.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 19.2 mmol, 3.7 g | Cl.C(C)N=C=NCCCN(C)C
reactant | dimethylamine | 3 ml | CNC | C2H7N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N-Dimethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylacetamide | 3.1 g, yield: 92.6% yield | CN(C(CC1(OC2=C(C1)C(=CC(=C2C)C)C)C)=O)C | C16H23NO2
